US07176242B2
5-{[Butyl(methyl)amino]methyl}-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}thiophene-2-carboxamide dihydrochloride
To a solution 5-([butyl(methyl)amino]methyl)thiophene-2-carboxylic acid (171 mg, 0.75 mmol) and N,N-diisopropylethylamine (250 μL, 1.43 mmol) in methylene chloride (5.0 mL) is added HBTU (285 mg, 0.75 mmol) and the reaction stirred for 0.5 h. To this is added a solution of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol prepared by the method in EXAMPLE SP-272 (306 mg, 0.75 mmol) in methylene chloride (5.0 mL) containing N,N-diisopropylethylamine (250 μL, 1.43 mmol). The reaction mixture is then stirred at room temperature overnight. The reaction mixture is diluted with methylene chloride, washed with saturated sodium bicarbonate, and brine. The organic layer is then dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 95:5 chloroform/methanol) gives the title compound as the free base. The solid is dissolved in methanol (1 mL) and treated with hydrochloric acid (1.0 M diethyl ether). The resulting precipitate was collected by filtration to provide the title compound. ESI MS m/z 544.3 [M+H]+.

reactant | 5-([butyl(methyl)amino]methyl)thiophene-2-carboxylic acid | 0.75 mmol, 171 mg | C(CCC)N(C)CC1=CC=C(S1)C(=O)O | C11H17NO2S
reactant | N,N-diisopropylethylamine | 1.43 mmol, 250 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.75 mmol, 285 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | N,N-diisopropylethylamine | 1.43 mmol, 250 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 5-{[Butyl(methyl)amino]methyl}-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}thiophene-2-carboxamide dihydrochloride | Cl.Cl.C(CCC)N(C)CC1=CC=C(S1)C(=O)N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | InChI=1S/C30H39F2N3O2S.2ClH/c1-4-6-12-35(3)20-26-10-11-29(38-26)30(37)34-27(16-23-14-24(31)17-25(32)15-23)28(36)19-33-18-22-9-7-8-21(5-2)13-22;;/h7-11,13-15,17,27-28,33,36H,4-6,12,16,18-20H2,1-3H3,(H,34,37);2*1H/t27-,28+;;/m0../s1
